US05486616
2-methyl-8-sulfonaphth[1,2-d]oxazole 48 g
(1 mole) of 1-amino-2-naphthol-4-sulfonic acid and 80 ml of pyridine are mixed and this mixture is then dissolved by adding 30 ml water. The amber colored solution is then heated gently in a heating jacket and 360 ml of acetic anhydride are added in small fractions. During this addition, a large amount of heat is evolved, causing the mixture to reflux vigorously. After the addition of the acetic anhydride is complete, the mixture is heated under reflux for 2 hours. By removing the solvents under reduced pressure, a thick syrup is obtained which is dissolved in 500 ml water. The aqueous solution is then rendered strongly acid to universal indicator paper by adding concentrated sulfuric acid, with stirring. The product thereupon precipitated from the solution in the form of a white solid. The solid is collected by filtration, washed with water and dried. After two recrystallizations from ethyl alcohol, 35 g (67%) of a white solid, melting above 320° C. are obtained.

reactant | 1-amino-2-naphthol-4-sulfonic acid | 1 mole | C1=CC=C2C(=C1)C(=CC(=C2N)O)S(=O)(=O)O | C10H9NO4S
reactant | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 360 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-methyl-8-sulfonaphth[1,2-d]oxazole | CC=1OC2=C(N1)C1=CC(=CC=C1C=C2)S(=O)(=O)O | C12H9NO4S
